US05217964
Step c: 1,9-Bis[(4-mercaptophenyl)methyl]-1,5,9-triazanonane, trihydrochloride
Dissolve 1,9-bis[(4-mercaptophenyl)methyl]-1,5,9-tri(t-butyloxycarbonyl)-1,5,9-triazanonane (4.75 g, 10 mmol) in saturated methanolic hydrochloric acid (100 mL). Stir for several hours and evaporate the solvent in vacuo to give the title compound.

reactant | 1,9-bis[(4-mercaptophenyl)methyl]-1,5,9-tri(t-butyloxycarbonyl)-1,5,9-triazanonane | 10 mmol, 4.75 g | SC1=CC=C(C=C1)CN(CCCN(CCCN(C(=O)OC(C)(C)C)CC1=CC=C(C=C1)S)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C35H53N3O6S2
reactant | hydrochloric acid | 100 mL | Cl | ClH
product | 1,9-Bis[(4-mercaptophenyl)methyl]-1,5,9-triazanonane, trihydrochloride | Cl.Cl.Cl.SC1=CC=C(C=C1)CNCCCNCCCNCC1=CC=C(C=C1)S | InChI=1S/C20H29N3S2.3ClH/c24-19-7-3-17(4-8-19)15-22-13-1-11-21-12-2-14-23-16-18-5-9-20(25)10-6-18;;;/h3-10,21-25H,1-2,11-16H2;3*1H
